US07214673B2
5-tert-Butyl-2-(2-nitro-phenylamino)-thiophene-3-carbonitrile
Add a solution of 2-amino-5-tert-butyl-thiophene-3-carbonitrile (16.9 g, 94 mmol) in THF (50 mL) to a mixture of washed NaH (from 6.76 g of 60% mineral oil dispersion) in THF (200 mL) in a water bath at room temperature. Stir 15 minutes, then add a solution of 2-fluoro-nitrobenzene (13.2 g, 94 mmol) in THF (50 mL) dropwise. Stir overnight. Pour the purple reaction mixture unto 6 N HCl (400 mL). Extract the mixture with diethyl ether (400 mL). Wash the ether layer with 2 N HCl (400 mL), brine (250 mL), dry (Na2SO4), and concentrate to afford a mixture of crystals in a dark oily residue. Triturate the crystals with hexanes and filter to afford the title compound as a red powder (21.2 g, 75%) mp 85–90° C.: 1H NMR (CDCl3) δ 1.39 (s, 9H), 6.81 (s, 1H), 6.97 (t, 1H), 7.23 (d, 1H), 7.53 (t, 1H), 8.25 (d, 1H), 9.66 (bs, 1H).

reactant | 2-amino-5-tert-butyl-thiophene-3-carbonitrile | 94 mmol, 16.9 g | NC=1SC(=CC1C#N)C(C)(C)C | C9H12N2S
reactant | NaH | 6.76 g | [H-].[Na+]
reactant | 2-fluoro-nitrobenzene | 94 mmol, 13.2 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | HCl | 6 N, 400 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-tert-Butyl-2-(2-nitro-phenylamino)-thiophene-3-carbonitrile | 21.2 g, 75% | C(C)(C)(C)C1=CC(=C(S1)NC1=C(C=CC=C1)[N+](=O)[O-])C#N | C15H15N3O2S
